US06949571B2
3-[2-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
53 mg of 3-(2-cyanophenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 10 ml of ethanol containing 20% of water. 19 mg of hydroxylamine hydrochloride and 17 mg of sodium acetate were added thereto, followed by heating under reflux for 24 hours. Further, 19 mg of hydroxylamine hydrochloride and 17 mg of sodium acetate were added thereto, followed by heating under reflux for 36 hours. After cooling to room temperature, the mixture was evaporated, and the resulting crystals were washed with water, dried, and 50 mg of amidoxime compound was collected by filtration. 20 mg of the product was dissolved in 4 ml of toluene. 16 mg of acetic anhydride was added thereto, followed by heating under reflux for 96 hours. After cooling to room temperature, the mixture was neutralized with potassium carbonate under ice-cooling. After extracting with ethyl acetate, the extract was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 4 mg of the title compound.

reactant | 3-(2-cyanophenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 53 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C23H15N3O
reactant | hydroxylamine hydrochloride | 19 mg | Cl.NO
reactant | sodium acetate | 17 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 19 mg | Cl.NO
reactant | sodium acetate | 17 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[2-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 4 mg | CC1=NC(=NO1)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C25H18N4O2
